US07915443B2
2-hydroxyethyl 3-[4-(S-methyl-N-{[5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)pyridin-3-yl]carbonyl}sulfonimidoyl)phenyl]propanoate
3-[4-(S-methyl-N-{[5-({3-[(3-methyl-2-furoyl)amino]phenyl}-ethynyl)pyridin-3-yl]carbonyl}sulfonimidoyl)phenyl]propanoic acid (0.150 g, 0.270 mmol) was dissolved in DMF (2.7 mL) then treated with EDCI (0.062 g, 0.324 mmol) and DMAP (0.003 g, 0.027 mmol) and allowed to stir at 60° C. for 30 min. Ethylene glycol (3 mL) was then added and the reaction was allowed to stir for 4 hours. The reaction mixture was then cooled to room temperature and dissolved in EtOAc (10 mL) and extracted with brine (3×10 mL). The organic layer was dried over anhydrous Na2SO4(s), filtered and concentrated in vacuo. The crude mixture was then redissolved in EtOAc (1 mL) and triturated with Hexanes (20 mL) causing the product to precipitate out. The resulting white solid to give the title compound (0.125 g, 77%).

reactant | 3-[4-(S-methyl-N-{[5-({3-[(3-methyl-2-furoyl)amino]phenyl}-ethynyl)pyridin-3-yl]carbonyl}sulfonimidoyl)phenyl]propanoic acid | 0.270 mmol, 0.150 g | CS(=O)(=NC(=O)C=1C=NC=C(C1)C#CC1=CC(=CC=C1)NC(=O)C=1OC=CC1C)C1=CC=C(C=C1)CCC(=O)O | C30H25N3O6S
reactant | EDCI | 0.324 mmol, 0.062 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | Ethylene glycol | 3 mL | C(CO)O | C2H6O2
solvent | DMF | 2.7 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.027 mmol, 0.003 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | 2-hydroxyethyl 3-[4-(S-methyl-N-{[5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)pyridin-3-yl]carbonyl}sulfonimidoyl)phenyl]propanoate | 0.125 g, 77% | CS(=O)(=NC(=O)C=1C=NC=C(C1)C#CC1=CC(=CC=C1)NC(=O)C=1OC=CC1C)C1=CC=C(C=C1)CCC(=O)OCCO | C32H29N3O7S
